US07759030B2
Indane-5-yl-p-tolylamine (18.1 g (0.081 mol)), 18.9 g (0.039 mol) of 4,4″-diiodo-p-terphenyl, 7.2 g (0.052 mol) of anhydrous potassium carbonate, 0.76 g (0.012 mol) of copper powder and 30 ml of n-dodecane were mixed, and heated up to 200 to 210° C. while introducing nitrogen gas, followed by stirring for 30 hours. After the termination of the reaction, the reaction product was extracted with 400 ml of toluene, and insoluble matter was removed by filtration. Then, the filtrate was concentrated to dryness. The resulting solid matter was purified by column chromatography (carrier: silica gel, eluent: toluene:hexane=1:4) to obtain 19.9 g of N,N′-bisindane-5-yl-N,N′-di-p-tolyl-4,4″-diamino-p-terphenyl (compound No. 1) (yield: 75.7%, melting point: 207.4 to 208.1° C.).

reactant | Indane-5-yl-p-tolylamine | 0.081 mol, 18.1 g | C1CCC2=CC(=CC=C12)NC1=CC=C(C=C1)C | C16H17N
reactant | 4,4″-diiodo-p-terphenyl | 0.039 mol, 18.9 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)I | C18H12I2
reactant | potassium carbonate | 0.052 mol, 7.2 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 0.012 mol, 0.76 g | [Cu] | Cu
solvent | n-dodecane | 30 ml | CCCCCCCCCCCC | C12H26
product | N,N′-bisindane-5-yl-N,N′-di-p-tolyl-4,4″-diamino-p-terphenyl | 19.9 g, yield: 75.7% | C1CCC2=CC(=CC=C12)N(C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C)C=1C=C2CCCC2=CC1)C1=CC=C(C=C1)C | C50H44N2
